US06727264B1
1-(3-METHOXYPHENYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indole and 1-iodo-3-methoxybenzene: ESMS m/e: 224.0 (M+H)+.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-iodo-3-methoxybenzene | IC1=CC(=CC=C1)OC | C7H7IO
product | 1-(3-METHOXYPHENYL)-1H-INDOLE | COC=1C=C(C=CC1)N1C=CC2=CC=CC=C12 | C15H13NO
